US04910306
A solution consisting of 106.8 mg (0.433 mmole) of 2-chlorosulfonyl-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine, 0.5 ml of CH3CN, and 252 μl (130 mmole) of N-trimethylsilyl-3-methyl-2,6-dichloroaniline was stirred at room temperature and 10 μl (0.14 mmole) of dimethyl sulfoxide (DMSO) added dropwise. The solution was stirred for 2 hours during which time a precipitate formed. The CH3CN was removed under nitrogen and the residual solid treated with 1 ml of 1N HCl. The mixture was stirred for 10 min, filtered, and the precipitate washed with acetone to obtain 136 mg of N-(2,6-dichloro-3-methylphenyl)-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide product as an off-white solid. The solid was washed with methanol and dried to give 120 mg (0.310 mmole, 71.6 percent yield) of product as a white solid, m.p. 286.5°-288° C.

reactant | 2-chlorosulfonyl-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine | 0.433 mmole, 106.8 mg | ClS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C7H7ClN4O2S
reactant | N-trimethylsilyl-3-methyl-2,6-dichloroaniline | 130 mmole, 252 μl | C[Si](NC1=C(C(=CC=C1Cl)C)Cl)(C)C | C10H15Cl2NSi
reactant | dimethyl sulfoxide | 0.14 mmole, 10 μl | CS(=O)C | C2H6OS
solvent | CH3CN | 0.5 ml | CC#N | C2H3N
product | N-(2,6-dichloro-3-methylphenyl)-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 136 mg | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C14H13Cl2N5O2S
